Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
aspirin / Levaquin / Penicillins
 
Attending: ___.
 
Chief Complaint:
Dyspnea
 
Major Surgical or Invasive Procedure:
Intubation and Extubation

 
History of Present Illness:
___ with asthma, recent admission for hypertensive hemorrhagic 
thalamic stroke in ___ at ___, dysphasia s/p PEG, HTN who 
presents from ___ with dyspnea. Unable to 
obtain collateral overnight from family or nursing home. Patient 
is lethargic but is able to answer yes/no questions. States that 
she has had trouble breathing for the last few days. She was 
sent in by her nursing home for dyspnea, AMS, and low O2 sat.

In ED initial VS:  ___ 30 100% Non-Rebreather 

She was place on bipap for respiratory distress. 

She was  given Azithromycin, duonebs, magnesium IV, methylpred 
125mg, 2L NS.

Initial gas 7.___. CXR was unremarkable. Trop 0.24.

Blood pressures trended down to the 80's/60's. She was broadened 
to vanc/meropenem. A CVL was placed and she was started on 
Levophed.
 
On arrival to the MICU, she is on bipap, lethargic, but awakes 
to voice and answers yes/no questions appropriately.  

 
Past Medical History:
Asthma
HLD
Hemorragic Thalamic Stroke ___ at ___
HTN
s/p g-tube 
dysphasia
 
Social History:
___
Family History:
Unknown
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VITALS:  97.2 119 138/87 32 100%
GENERAL: Elderly female, tachypneic, with bipap, moderate 
distress
HEENT: Sclera anicteric 
NECK: supple 
LUNGS: Prolonged expiratory phase, using accessory muscles, 
diffuse expiratory rhonchi.  
CV: tachycardic, normal S1 S2, no murmurs, rubs, gallops  
ABD: soft, non-tender, non-distended, g-tube in place
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
SKIN: no rashes 
NEURO:  Unable to participate in neuro exam.

DISCHARGE PHYSICAL EXAM:
Vitals:  98.0, 127 / 84, 64, 24, 96 Ra 
General: A&Ox1, no evidence of increased WOB
HEENT: Sclera anicteric, moist membranes, oropharynx clear
Neck: supple, JVP not elevated, no LAD
Lungs: Diminished breath sounds, no wheezing or crackles. No
respiratory distress.
CV: Regular rate and rhythm, normal S1 + S2, no murmurs 
Abdomen: soft, non-distended, bowel sounds present. PEG site
clean, non-erythematous
Ext: Warm, well perfused, 2+ DP pulses; no lower extremity 
edema;
no upper extremity edema
Skin: Scattered ecchymosis
Neuro: PEERL; left-sided weakness in upper and lower extremity.
Able to squeeze left hand 4- (5 on right) and move left foot
ankle against gravity. On right ___ strength at ankle. improved
from prior exam
Lines: R arm PIV

 
Pertinent Results:
===============================
ADMISSION LABS AND IMAGING
===============================

___ 06:00PM BLOOD WBC-17.8* RBC-4.26 Hgb-13.2 Hct-41.2 
MCV-97 MCH-31.0 MCHC-32.0 RDW-13.2 RDWSD-46.8* Plt ___
___ 06:00PM BLOOD Neuts-63.3 ___ Monos-6.7 Eos-8.6* 
Baso-0.3 Im ___ AbsNeut-11.27* AbsLymp-3.59 AbsMono-1.20* 
AbsEos-1.54* AbsBaso-0.06
___ 06:00PM BLOOD ___ PTT-29.1 ___
___ 06:00PM BLOOD Glucose-231* UreaN-20 Creat-0.5 Na-138 
K-5.1 Cl-98 HCO3-22 AnGap-23*
___ 06:00PM BLOOD ALT-16 AST-24 AlkPhos-127* TotBili-0.3
___ 06:00PM BLOOD cTropnT-0.24*
___ 10:01PM BLOOD CK-MB-11* MB Indx-9.1* cTropnT-0.80* 
proBNP-372*
___ 10:01PM BLOOD cTropnT-0.76*
___ 03:49AM BLOOD CK-MB-16* MB Indx-9.1* cTropnT-0.48*
___ 06:00PM BLOOD Albumin-4.3 Calcium-9.6 Phos-6.6* Mg-2.5
___ 06:07PM BLOOD ___ pO2-72* pCO2-65* pH-7.24* 
calTCO2-29 Base XS--1
___ 06:07PM BLOOD Lactate-2.1*

CXR:
No acute cardiopulmonary process.

___ ECHO:
Moderately reduced biventricular systolic dysfunction with 
hypokinesis to akinesis of the mid to distal ventricles and 
normal contractility of the base, which may be c/w Takostubo 
cardiomyopathy. Elevated left ventricular filling pressure 
suggested. No significant valvular disease. 

___ CT HEAD:
1. No intracranial hemorrhage or definite CT evidence of acute 
infarct. MRI would be more sensitive for acute ischemia and 
should be obtained if clinical 
concern for stroke is high. 
2. Chronic appearing infarcts as described. 
3. Extensive sinus disease. Nasal polyposis. 

___ LUE US
DVT with thrombosis involving one of the two visualized brachial 
veins.  The remainder of the left upper extremity veins are 
widely patent. 

===============================
DISCHARGE LABS AND IMAGING
===============================

___ 07:20AM BLOOD WBC-10.7* RBC-3.64* Hgb-11.5 Hct-35.1 
MCV-96 MCH-31.6 MCHC-32.8 RDW-14.1 RDWSD-49.6* Plt ___
___ 04:51AM BLOOD WBC-12.2* RBC-3.74* Hgb-11.7 Hct-36.2 
MCV-97 MCH-31.3 MCHC-32.3 RDW-14.3 RDWSD-50.3* Plt ___
___ 04:58AM BLOOD WBC-14.4* RBC-3.72* Hgb-11.8 Hct-36.1 
MCV-97 MCH-31.7 MCHC-32.7 RDW-14.1 RDWSD-50.0* Plt ___
___ 07:20AM BLOOD Neuts-59 Bands-0 ___ Monos-11 Eos-1 
Baso-0 ___ Myelos-0 AbsNeut-6.31* AbsLymp-3.10 
AbsMono-1.18* AbsEos-0.11 AbsBaso-0.00*
___ 01:00PM BLOOD ___
___ 07:20AM BLOOD ___ PTT-28.3 ___
___ 07:20AM BLOOD Glucose-100 UreaN-26* Creat-0.3* Na-137 
K-4.3 Cl-99 HCO3-28 AnGap-14
___ 07:25AM BLOOD Glucose-124* UreaN-24* Creat-0.3* Na-138 
K-4.0 Cl-97 HCO3-33* AnGap-12
___ 04:51AM BLOOD Glucose-106* UreaN-22* Creat-0.3* Na-140 
K-3.7 Cl-98 HCO3-32 AnGap-14
___ 03:24AM BLOOD CK-MB-10 MB Indx-6.9* cTropnT-0.15*
___ 03:49AM BLOOD CK-MB-16* MB Indx-9.1* cTropnT-0.48*
___ 10:01PM BLOOD cTropnT-0.76*
___ 10:01PM BLOOD CK-MB-11* MB Indx-9.1* cTropnT-0.80* 
proBNP-372*
___ 07:20AM BLOOD Calcium-8.7 Phos-3.0 Mg-2.1
___ 07:25AM BLOOD Calcium-9.4 Phos-3.4 Mg-2.2
___ 07:25AM BLOOD Calcium-9.3 Phos-4.1 Mg-2.0

 
Brief Hospital Course:
This is a ___ year old ___ female with past medical 
history asthma, hypertension, recent thalamic stroke complicated 
by dysphagia status post PEG admitted ___ with acute 
hypoxic respiratory failure secondary to asthma 
exacerbation, course complicated by NSTEMI and Takastubo 
cardiomyopathy, acute L brachial vein DVT, treated with 
steroids, bronchodilators, anticoagulation, medical 
optimization, returning to baseline, and able to be discharged 
back to rehab 

# Acute hypoxic respiratory failure secondary to acute asthma 
exacerbation 
Patient presented with hypoxia and hypercarbia requiring 
intubation upon arrival to the ICU. Treated with solumedrol, 
bronchodilators. Transitioned to prednisone with taper given 
severity of asthma exacerbation. Able to be extubated after 2 
days on the ventilator. Trigger thought to be due to viral 
illness from her nursing home. She finished 3 days of IV 
methylprednisone (___), followed by prednisone taper 
started ___ (40mg PO x2 days, then 20mg PO x2 days, then 10mg PO 
x2 days) and nebs. Also received Singulair (10 mg PO DAILY) as 
well as Advair 1 INH IH BID. Tolerated changing standing to PRN 
levalbuterol and ipratropium to tiopropium which can be 
continued at rehab. By report from rehab, she was intermittently 
on O2 as an outpatient prior to admission. On discharge she was 
mainly off O2 during the day but intermittently required O2 at 
night, thought to either be atelectasis or undiagnosed OSA. 

# Acute L brachial vein DVT - Found on US ___ in left brachial, 
as left hand was swollen. ___ records did not show that she had 
CVL during prior hospitalization to explain the DVT. Patient 
started on heparin gtt without bolus after consulting neurology 
on risk/benefit of recent hemorrhagic stroke (see below). Family 
meeting held to discuss risks and benefits to anticoagulation. 
Family agreed with treating DVT (and she did not undergo a CTA 
to look for PE given improvement in respiratory status and plan 
for anticoagulation for DVT). Heparin gtt (___), followed 
by Lovenox bridge (___) to Warfarin (___). Now at INR 1.7 
on 5mg warfarin.

# NSTEMI
# Takotsubo stress cardiomyopathy 
Acute elevation of troponin peaking at 0.8 with concomitant TWI 
in anterolateral leads. Echo consistent with Takatsubo's likely 
from stress of asthma exacerbation. Management was targeted 
towards reducing cardiac demand by
putting her on mechanical ventilation, metoprolol, and losartan. 
Did not get fluids or inotropes. Cardiology did not recommend 
ASA or increasing statin given low suspicion for ACS.  

# Dementia with behavioral disturbance
# Stroke with residual L partial hemiparesis and dysphagia
Since recent stroke, baseline is able to talk, not able to 
ambulate. Has left sided weakness, but able to move hand with 
weak squeeze and move left foot. Was lethargic in setting of 
acute illness above.  CT head without acute processes. No change 
after starting anticoagulation as above.  Mental status improved 
to recent baseline of A&O x1.

================================
TRANSITIONAL ISSUES:
================================
- Has MOLST on file at ___, confirmed Full Code, 
HCP is daughter.
- Scheduled for cardiology follow up, for assessment for 1 month 
repeat ECHO to re-evaluate takosubo cardiomyopathy
- Recommend outpatient Neurology f/u within ___
- In setting of asthma above, noted to have IgE elevated to 376 
___ would consider pulmonary referral for evaluation to 
initiate Xolair
- Due to low blood pressures in setting of acute illness, 
losartan and metoprolol doses were decreased; would consider 
increasing back to preadmission doses of 100mg losartan and 
metoprolol succinate XL 37.5mg daily as appropriate
- Acute LUE DVT diagnosed this admission; prompting initiation 
of warfarin for anticoagulation; would consider at least 6 
months of anticoagulation.
- Given occassional nocturnal O2 requirement, could consider 
outpatient workup for OSA, if within goals of care
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Loratadine 10 mg PO DAILY 
2. Simvastatin 40 mg PO QPM 
3. Losartan Potassium 50 mg PO DAILY 
4. Metoprolol Succinate XL 12.5 mg PO DAILY 
5. Montelukast 10 mg PO DAILY 
6. Diltiazem Extended-Release 120 mg PO DAILY 
7. FLUoxetine 20 mg PO DAILY 
8. Heparin 5000 UNIT SC TID 
9. Docusate Sodium 100 mg PO BID 

 
Discharge Medications:
1.  Enoxaparin Sodium 40 mg SC Q12H 
Start: ___, First Dose: Next Routine Administration Time 
DISCONTINUE WHEN WARFARIN IS THERAPEUTIC (INR ___  
2.  Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID  
3.  Levalbuterol Neb 0.63 mg NEB Q4H:PRN SOB  
4.  PredniSONE 10 mg PO DAILY Duration: 1 Dose 
10mg on ___, then stop 
This is dose # 3 of 3 tapered doses
Tapered dose - DOWN  
5.  Senna 8.6 mg PO BID:PRN constipation  
6.  Tiotropium Bromide 1 CAP IH DAILY  
7.  Warfarin 5 mg PO DAILY16  
8.  Docusate Sodium 100 mg PO BID  
9.  FLUoxetine 20 mg PO DAILY  
10.  Loratadine 10 mg PO DAILY  
11.  Losartan Potassium 50 mg PO DAILY  
12.  Metoprolol Succinate XL 12.5 mg PO DAILY  
13.  Montelukast 10 mg PO DAILY  
14.  Simvastatin 40 mg PO QPM  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
# Acute hypoxic respiratory failure secondary to acute asthma 
exacerbation 
# Dementia with behavioral disturbance
# Stroke with residual L partial hemiparesis and dysphagia
# NSTEMI
# ___ stress cardiomyopathy 
# Acute L brachial vein DVT
 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Lethargic but arousable.
Activity Status: Bedbound can be lifted to chair. 

 
Discharge Instructions:
Dear Ms. ___ and family,

WHY WAS I ADMITTED TO THE HOSPITAL?
- You were admitted for a severe asthma exacerbation that 
required intensive care.

WHAT WAS DONE IN THE HOSPITAL?
- Your breathing was supported while you were treated with 
medication for an asthma attack.
- You were found to have "stress cardiomyopathy" a temporary 
form of heart failure that can occur when you are critically ill 
with other medical problems (such as asthma).
- An ultrasound of your swollen arm showed you have a blood clot 
in your upper arm which is being treated with a blood thinner. 
- Your usual care (tube feeding, repositioning in med, other 
home medications) were continued in the hospital.

WHAT SHOULD I DO AFTER LEAVING THE HOSPITAL?
- Continue to take your medications as prescribed.
- Your blood tests will be performed to monitor your blood 
thinner and adjust the dose.
- Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.

Sincerely,
Your ___ Team
 
Followup Instructions:
___